US07612211B2
A. 5-bromo-2-(chloro-difluoro-methyl)-1H-benzoimidazole
A mixture of 4-bromo-phenylene-diamine (1.00 g, 5.35 mmol), chlorodifluoroacetic acid (3.0 mL, 35.4 mmol), and a drop of water was heated to 80° C. for 14 hours. The crude product was purified by chromatography (silica, hexanes: EtOAc, 4:1) to afford the title compound as a colorless oil (0.63 g, 42%).

reactant | 4-bromo-phenylene-diamine | 5.35 mmol, 1.00 g | BrC1=CC(=C(C=C1)N)N | C6H7BrN2
reactant | chlorodifluoroacetic acid | 35.4 mmol, 3.0 mL | ClC(C(=O)O)(F)F | C2HClF2O2
solvent | water | O | H2O
product | 5-bromo-2-(chloro-difluoro-methyl)-1H-benzoimidazole | 0.63 g, 42% | BrC1=CC2=C(NC(=N2)C(F)(F)Cl)C=C1 | C8H4BrClF2N2
